US07816522B2
To a solution of 1.0 g of 5,6-dimethoxypyridine-3-carbaldehyde [CAS No. 52605-99-9] in 10 ml of THF there were added 1.15 g of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 5 g of MS3A and 371 mg of Yb(OTf)3 under a nitrogen atmosphere, and after stirring at room temperature for 2 hours, 4.5 ml of trimethylsilyl cyanide was added and the mixture was stirred at room temperature for 12 hours and 30 minutes. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. A dichloromethane, heptane and ethyl acetate mixed solvent was added and the mixture was filtered to give (5,6-dimethoxypyridin-3-yl)-[4-(5-methyl[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile (2.19 g) as a white solid.

reactant | 5,6-dimethoxypyridine-3-carbaldehyde | 1.0 g | COC=1C=C(C=NC1OC)C=O | C8H9NO3
reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 1.15 g | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | trimethylsilyl cyanide | 4.5 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Yb(OTf)3 | 371 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
product | (5,6-dimethoxypyridin-3-yl)-[4-(5-methyl[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | 2.19 g | COC=1C=C(C=NC1OC)C(C#N)NC1=CC=C(C=C1)C1=NOC(=N1)C | C18H17N5O3
